US08729105B2
Preparation of 4-(4-chloro-3-methylphenyl)-N-((3-methoxyisoxazol-5-yl)methyl)-5-(2,2,2-trifluoroethoxy)picolinamide
The title compound was synthesized in analogy to Example 1 using 4-(4-chloro-3-methylphenyl)-5-(2,2,2-trifluoroethoxy)picolinic acid (example BN) and 3-methoxy-5-isoxazolemethanamine (CAN 2763-94-2) as starting materials; LC-MS (UV peak area/ESI) 100%, 456.0938 (M+H)+.

reactant | 4-(4-chloro-3-methylphenyl)-5-(2,2,2-trifluoroethoxy)picolinic acid | ClC1=C(C=C(C=C1)C1=CC(=NC=C1OCC(F)(F)F)C(=O)O)C | C15H11ClF3NO3
reactant | 3-methoxy-5-isoxazolemethanamine | COC1=NOC(=C1)CN | C5H8N2O2
product | 4-(4-chloro-3-methylphenyl)-N-((3-methoxyisoxazol-5-yl)methyl)-5-(2,2,2-trifluoroethoxy)picolinamide | ClC1=C(C=C(C=C1)C1=CC(=NC=C1OCC(F)(F)F)C(=O)NCC1=CC(=NO1)OC)C | C20H17ClF3N3O4
